US04965367
1,1-Diacetoxysilacyclobutane
To 30.0 g trimethylsilylacetate was added 16.0 g 1,1-dichlorosilacyclobutane. The reactants were stirred for one hour at 25 ° C. and fractional distillation performed on the reaction mixture. The title compound was isolated as a clear, colorless fluid. The yield was 14.6 g (81.4%). The structure of the product was confirmed by mass spectroscopy and nuclear magnetic resonance spectroscopy (NMR).

reactant | trimethylsilylacetate | 30.0 g | C[Si](C)(C)CC(=O)[O-]
reactant | 1,1-dichlorosilacyclobutane | 16.0 g | Cl[Si]1(CCC1)Cl | C3H6Cl2Si
product | 1,1-Diacetoxysilacyclobutane | C(C)(=O)O[Si]1(CCC1)OC(C)=O | C7H12O4Si
